### PR TITLE
[Merged by Bors] - feat(GroupTheory/Perm/Fin): Add `(cycleIcc i j) ∘ j.succAbove = i.succAbove` for `i ≤ j`

### PR DESCRIPTION
**Pull request by yuanyi-350**
- proves `(cycleIcc i j) ∘ j.succAbove = i.succAbove` for `i ≤ j`, giving the expected `succAbove` compatibility for `cycleIcc`

### CODE REVIEW

File: Mathlib/GroupTheory/Perm/Fin.lean [hunk 1]
```diff
@@ -446,6 +446,21 @@ theorem cycleIcc_zero_eq_cycleRange (i : Fin n) [NeZero n] : cycleIcc 0 i = cycl
...
+  by_cases hk : k.castSucc < i
+  · have hjk : k.castSucc < j := lt_of_lt_of_le hk hij
+    rw [succAbove_of_castSucc_lt _ _ hjk, cycleIcc_of_lt hk, succAbove_of_castSucc_lt _ _ hk]
+  · have hki : i ≤ k.castSucc := le_of_not_gt hk
+    by_cases hkj : k.castSucc < j
+    · simp [succAbove_of_castSucc_lt _ _ hkj, cycleIcc_of_ge_of_lt hki hkj,
+        succAbove_of_le_castSucc _ _ hki]
+    · have hjk : j ≤ k.castSucc := le_of_not_gt hkj
+      rw [succAbove_of_le_castSucc _ _ hjk, cycleIcc_of_gt (le_castSucc_iff.mp hjk),
+        succAbove_of_le_castSucc _ _ hki]
```
Comment (robin-carlier) [inline Mathlib/GroupTheory/Perm/Fin.lean]:
```suggestion
  grind [cycleIcc_of_lt, succAbove_of_castSucc_lt, cycleIcc_of_ge_of_lt,
    succAbove_of_le_castSucc, coeSucc_eq_succ, cycleIcc_of_gt]
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/GroupTheory/Perm/Fin.lean [hunk 2]
```diff
@@ -446,6 +446,11 @@ theorem cycleIcc_zero_eq_cycleRange (i : Fin n) [NeZero n] : cycleIcc 0 i = cycl
   · simp [-cycleIcc_def_le, ch]
   · simp [-cycleIcc_def_le, cycleIcc_of_gt ch, cycleRange_of_gt ch]
 
+theorem cycleIcc_comp_succAbove {n : ℕ} (i j : Fin (n + 1)) (hij : i ≤ j) :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Perm/Fin.lean:449]: Does it make sense to tag it `simp`?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/GroupTheory/Perm/Fin.lean (hunk 2 above)
Comment (yuanyi-350) [reply Mathlib/GroupTheory/Perm/Fin.lean:449]:
```
#check @Fin.cycleIcc_comp_succAbove /- Left-hand side simplifies from
  ⇑(i.cycleIcc j) ∘ j.succAbove
to
  ⇑(((j - i).castLT ⋯).cycleRange.extendDomain (Fin.natAdd_castLEEmb ⋯).toEquivRange) ∘ j.succAbove
using
  simp only [*, @Fin.cycleIcc_def_le]
Try to change the left-hand side to the simplified term! -/
```

Adding `simp` causes such an error, which means that this `simp` conflicts with some previous `simp`. So, should I still keep the `@[simp]` here?

Comment (riccardobrasca) [reply Mathlib/GroupTheory/Perm/Fin.lean:449]: Ah I see. Then let's not mark this `simp`.
